US07612055B2
c) 2-But-3-enylamino-6-methoxy-N-[3-methyl-1-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-hept-6-enyl]-isonicotinamide
A solution of 155 mg (0.7 mmol) 2-but-3-enylamino-6-methoxy-isonicotinic acid (Acid IIIb), 105 mg (0.47 mmol) (R)-3-methyl-1-(4-methyl-5-oxo-tetrahydro-furan-2-yl)hept-6-enyl]-carbamic acid tert-butyl ester and 63 mg (0.42 mmol) HOBt.H2O in 8 ml DMF is cooled to 0°, treated with 107 mg (0.56 mmol) EDC.HCl and stirred at rt for 3 h. The reaction mixture is diluted with EtOAc and washed with 0.5 N aqueous citric acid, 2 M KHCO3 and brine, then dried over Na2SO4, filtered and evaporated. Chromatography on silica gel yields the title product as a colorless oil.

reactant | 2-but-3-enylamino-6-methoxy-isonicotinic acid | 0.7 mmol, 155 mg | C(CC=C)NC=1C=C(C(=O)O)C=C(N1)OC | C11H14N2O3
reactant | carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | HOBt | 0.42 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.56 mmol, 107 mg | CCN=C=NCCCN(C)C.Cl
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-But-3-enylamino-6-methoxy-N-[3-methyl-1-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-hept-6-enyl]-isonicotinamide | C(CC=C)NC=1C=C(C(=O)NC(CC(CCC=C)C)C2OC(C(C2)C)=O)C=C(N1)OC | C24H35N3O4
